US04513002
A mixture of 11.4 g of magnesium shavings, 151.5 g of diethyl malonate and 300 ml of dry ethanol is warmed to 60° under argon over a period of 30 minutes. After the vigorous reaction has faded, the mixture is heated to boiling under reflux for an additional 1 hour and then concentrated in vacuo. The residue is treated twice with 300 ml of dry benzene each time and in each case evaporated well. The residue obtained is dissolved under argon in 350 ml of dry tetrahydrofuran. Thereto there is added dropwise at room temperature over a period of 20 minutes a solution of 195.5 g of 5-chloro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene in 500 ml of dry tetrahydrofuran. The mixture is heated to boiling under reflux overnight while stirring and then evaporated in vacuo. The residue obtained is partitioned between 2.0 l of toluene and 500 ml of ice-water. The organic phase is washed successively twice with 500 ml of 1N hydrochloric acid each time, twice with 500 ml of water each time, twice with 250 ml of saturated sodium bicarbonate solution each time and several times with water, dried over magnesium sulfate and evaporated in vacuo. Diethyl 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-malonate is obtained as an orange oil.

reactant | magnesium | 11.4 g | [Mg] | Mg
reactant | diethyl malonate | 151.5 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | ethanol | 300 ml | C(C)O | C2H6O
reactant | 5-chloro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 195.5 g | ClC1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C15H13Cl
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | Diethyl 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-malonate | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)C(C(=O)OCC)C(=O)OCC | C22H24O4
